US07109238B2
a) Ethyl 3-hydroxybenzenepropionate
A solution of 3-(3-hydroxyphenyl)propionic acid (Lancaster, 66.4 g, 0.4 mol) in ethanol (700 mL) was treated with concentrated sulfuric acid (6 mL), heated to reflux for 2 h, and allowed to cool to RT. The mixture was cooled in ice, neutralized with 10% aqueous sodium carbonate and concentrated in vacuo to about 50 mL. Water (˜200 mL) was added and the mixture was extracted three-times with ethyl acetate. The combined ethyl acetate extract was washed with water and brine, dried (Na2SO4), filtered, and concentrated in vacuo to yield the title compound as an oil (70 g, 90%).

reactant | 3-(3-hydroxyphenyl)propionic acid | 0.4 mol, 66.4 g | OC=1C=C(C=CC1)CCC(=O)O | C9H10O3
reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 700 mL | C(C)O | C2H6O
product | Ethyl 3-hydroxybenzenepropionate | 70 g, 90% | OC=1C=C(C=CC1)CCC(=O)OCC | C11H14O3
